US05571825
To a solution of methyl thioglycolate (5.95 g, 56 mmol) in 225 mL of tetrahydrofuran is added sodium hydride (2.5 g of 60% NaH in oil, 62.5 mmol). The mixture is stirred at room temperature for 10 minutes. Benzhydryl bromide (Aldrich of Milwaukee, Wis.; hereinafter "Aldrich") (15.3 g, 62 mmol) is added and the reaction mixture is stirred at room temperature for 3 days and then concentrated in vacuo. The residue is taken up in ethyl acetate and washed with saturated aqueous sodium bicarbonate, 10% aqueous citric acid, and brine and then dried over magnesium sulfate. Chromatography on silica gel, eluting with 4% ethyl acetate in hexane provides methyl [[(diphenyl)methyl]thio]acetate as a colorless oil in 15% yield.

reactant | methyl thioglycolate | 56 mmol, 5.95 g | C(CS)(=O)OC | C3H6O2S
reactant | sodium hydride | 62.5 mmol, 2.5 g | [H-].[Na+]
reactant | Benzhydryl bromide | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
solvent | tetrahydrofuran | 225 mL | O1CCCC1 | C4H8O
product | methyl [[(diphenyl)methyl]thio]acetate | 15% yield | C1(=CC=CC=C1)C(SCC(=O)OC)C1=CC=CC=C1 | C16H16O2S
